US07968538B2
N-(1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride
A solution of N-(1-(6-chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine (50.0 mg, 0.11 mmol) in anhydrous dichloromethane (1 mL) was cooled to 0° C. and HCl (0.12 mL of a 1 M solution in diethyl ether, 0.12 mmol) was added. The mixture was allowed to stir for 30 min. The solvent was removed by rotary evaporation, more diethyl ether was added to precipitate the salt. After removal of solvent by rotary evaporation the desired product was collected (53 mg, 99%). 1H NMR (400 MHz, CD3OD): δ 7.55 (d, 1H), 6.87 (d, 1H), 6.76 (d, 1H), 6.40 (dd, 1H), 6.02 (d, 1H), 4.84 (m, 1H), 4.33 (m, 2H), 4.27 (m, 2H), 4.43 (m, 4H), 3.30 (m, 4H), 3.07 (s, 3H), 1.54 (d, 3H); MS (ESI) m/z: 452.3 (M++1).

reactant | N-(1-(6-chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine | 0.11 mmol, 50.0 mg | ClC1=CC2=C(OCCO2)C(=C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C21H26ClN3O4S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride | Cl.ClC1=CC2=C(OCCO2)C(=C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | InChI=1S/C21H26ClN3O4S.ClH/c1-14(17-11-15(22)12-19-21(17)29-10-9-28-19)24-18-13-16(25-7-5-23-6-8-25)3-4-20(18)30(2,26)27;/h3-4,11-14,23-24H,5-10H2,1-2H3;1H
